* Extracted by KLayout with SG13G2 LVS runset on : 08/01/2026 23:46

.SUBCKT nand_custom VSS VDD OUT A B
M$1 OUT A \$4 VSS sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.0555p PS=1.34u
+ PD=0.74u
M$2 \$4 B VSS VSS sg13_lv_nmos L=0.13u W=0.15u AS=0.0555p AD=0.1005p PS=0.74u
+ PD=1.34u
M$3 VDD A OUT VDD sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.0555p PS=1.34u
+ PD=0.74u
M$4 OUT B VDD VDD sg13_lv_pmos L=0.13u W=0.15u AS=0.0555p AD=0.1005p PS=0.74u
+ PD=1.34u
.ENDS nand_custom
